US09399640B2
4-[4-(Cyclopropylmethoxy)-2-methyl-1H-benzimidazol-5-yl]-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
This compound was synthesized according to the procedure of Example 2 using 4-[3,4-diamino-2-(cyclopropylmethoxy)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one as the starting material and triethyl orthoacetate instead of ethyl orthoformate. 1H NMR (300 MHz, DMSO-d6) δ 12.23 (s, 1H), 11.99 (s, 0.3H), 11.93 (s, 0.7H), 7.33-7.19 (m, 1.2H), 7.18-7.00 (m, 2.8H), 6.17-6.10 (m, 0.3H), 6.10-6.02 (m, 0.7H), 4.37 (d, J=6.8 Hz, 2H), 3.62-3.51 (m, 3H), 1.09-0.89 (m, 1H), 0.41-0.25 (m, 2H), 0.17-0.06 (m, 1.4H), −0.01-−0.12 (m, 0.6H); LCMS calculated for C20H21N4O2 (M+H)+: m/z=349.2. found: 349.1.

reactant | 4-[3,4-diamino-2-(cyclopropylmethoxy)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | NC=1C(=C(C=CC1N)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)OCC2CC2 | C25H26N4O4S
reactant | triethyl orthoacetate | C(C)(OCC)(OCC)OCC | C8H18O3
product | 4-[4-(Cyclopropylmethoxy)-2-methyl-1H-benzimidazol-5-yl]-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | C1(CC1)COC1=C(C=CC=2NC(=NC21)C)C=2C1=C(C(N(C2)C)=O)NC=C1 | C20H20N4O2
